US04588725
4-[4-(Quinazolin-2-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone
2.25 g 2-Chloroquinazoline, 4.2 g 1-(3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl)piperazine and 2 ml triethylamine in 8 ml isopropanol are stirred and heated 21/2 hours at 80° C. The solvent is then evaporated in vacuo and the residue is taken up in hexane. The hexane solution is treated with charcoal, filtered and concentrated whereby the ketal of the title compound crystallizes out. The resulting precipitate is dissolved in 40 ml aqueous 1N hydrochloric acid. After 1 hour the acidic solution is made alkaline with aqueous ammonia. The resulting precipitate is filtered off and recrystallized from ethyl acetate to give the title compound, m.p. 129°-131° C.

reactant | 2-Chloroquinazoline | 2.25 g | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
reactant | 1-(3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl)piperazine | 4.2 g | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CCNCC1 | C16H23FN2O2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 4-[4-(Quinazolin-2-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone | N1=C(N=CC2=CC=CC=C12)N1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C22H23FN4O
